US07741315B2
Step 10: 11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-2-[2-(acetyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
A mixture of 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-[2-(benzyl-oxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione (120 mg, 0.21 mmol) and 33% hydrogen bromide in acetic acid (1 mL) in dioxane (1 mL) was stirred at room temperature for 1 hour. The product mixture was concentrated under vacuum. The residue was subjected to reverse phase column chromatography on C-18 stationary phase eluted with a 95-5% water-acetonitrile gradient. Collection and lyophilization of appropriate fractions afforded the title compound. 1H NMR (400 MHz, CDCl3) δ 7.34 (dd, J=6.7, 1.6 Hz, 1H), 7.18 (br signal, 1H), 7.12 (t, J=8.6 Hz, 1H), 4.79 (br signal), 4.76 (d, J=14.7 Hz, 1H), 4.54 (d, J=14.7 Hz, 1H), 4.46 (br signal), 4.18 (m, 2H), 3.48-3.25 (m), 3.00-2.93 (m), 2.61-2.57 (m), 2.03 (s, 3H), 2.09-1.75 (m). (ES MS M+1=506.2)

reactant | 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-[2-(benzyl-oxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | 0.21 mmol, 120 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCOCC4=CC=CC=C4)=O)=O)OC)=O)C=CC1F | C30H31ClFN3O5
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-2-[2-(acetyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCOC(C)=O)=O)=O)O)=O)C=CC1F | C24H25ClFN3O6
